US04713387
In 17 ml of ethanol was dissolved 2.28 g of 3-[p-(3-chloro-2-methylpropionyl)benzyl]pyridine, and to the resulting solution was added 0.3 g of sodium boron hydride in small portions with ice-cooling, after which the resulting mixture was subjected to reaction at the same temperature for one hour. To the reaction mixture were added successively 0.54 ml of acetic acid and 30 ml of a saturated aqueous sodium chloride solution, and the resulting mixture was extracted with two 20-ml portions of ethyl acetate. The extracts were combined, washed with water, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: chloroform:ethyl acetate (1:1 by volume)] to obtain 2.29 g (yield 99.0%) of colorless, oily 3-[p-(3-chloro-1-hydroxy-2-methylpropyl)benzyl]pyridine.

reactant | 3-[p-(3-chloro-2-methylpropionyl)benzyl]pyridine | 2.28 g | ClCC(C(=O)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C16H16ClNO
reactant | sodium boron hydride | 0.3 g | B.[Na]
reactant | acetic acid | 0.54 ml | C(C)(=O)O | C2H4O2
reactant | sodium chloride | 30 ml | [Cl-].[Na+]
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | 3-[p-(3-chloro-1-hydroxy-2-methylpropyl)benzyl]pyridine | yield 99.0% | ClCC(C(O)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C16H18ClNO
